US07087601B2
A mixture of 3-cyano-phenylboronic acid (183 mg, 1.3 mmol), 2-(3-bromo-4-methylphenyl)-1,3-benzoxazole (300 mg, 1.04 mmol), dichlorobis(triphenylphosphine)palladium(II) (36.5 mg, 0.052 mmol), triphenylphosphine (27 mg, 0.104 mmol), and potassium carbonate (287 mg, 2.08 mmol) in degassed DME/H2O (5:1, 18 mL) was heated to 80° C. for 18 h. The mixture was cooled to rt and the two layers were separated and the aqueous layer was extracted with EtOAc (3×). The organics were combined, dried over Na2SO4, and evaporated to dryness to give a clear solid. Purification of the crude by flash chromatography on silica gel eluting with a gradient of EtOAc:hexanes (0 to 30 min: 0 to 20% EtOAc) afforded 5′-(1,3-benzoxazol-2-yl)-2′-methyl-1,1′-biphenyl-3-carbonitrile a colorless solid.

reactant | 3-cyano-phenylboronic acid | 1.3 mmol, 183 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | 2-(3-bromo-4-methylphenyl)-1,3-benzoxazole | 1.04 mmol, 300 mg | BrC=1C=C(C=CC1C)C=1OC2=C(N1)C=CC=C2 | C14H10BrNO
reactant | triphenylphosphine | 0.104 mmol, 27 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 2.08 mmol, 287 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DME H2O | 18 mL | COCCOC.O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.052 mmol, 36.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5′-(1,3-benzoxazol-2-yl)-2′-methyl-1,1′-biphenyl-3-carbonitrile | O1C(=NC2=C1C=CC=C2)C=2C=CC(=C(C2)C2=CC(=CC=C2)C#N)C | C21H14N2O
